US06924278B2
A solution of 4N hydrogen chloride in ethyl acetate was added to a solution of (2R)-1-tert-butoxycarbonyl-2-(3,4-dimethylbenzyl)-4-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine (40.0 g) in ethanol (120 ml) at room temperature and the whole was stirred for 12 hours. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (500 ml) and potassium carbonate solution. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (300 ml). The combined extract was dried over sodium sulfate and evaporated under reduced pressure, and the residue was purified by column chromatography on silica gel using a mixed solvent of n-hexane and ethyl acetate (3:1). The fractions containing the objective compound were collected and evaporated under reduced pressure, and treated with 4N hydrogen chloride in ethyl acetate to give (3R)-3-(3,4-dimethylbenzyl)-1-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine trihydrochloride (37.7 g).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | (2R)-1-tert-butoxycarbonyl-2-(3,4-dimethylbenzyl)-4-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine | 40.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)CC#CCN1C(COCC1)(C)C)CC1=CC(=C(C=C1)C)C | C28H43N3O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (3R)-3-(3,4-dimethylbenzyl)-1-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine trihydrochloride | 37.7 g | Cl.Cl.Cl.CC=1C=C(C[C@@H]2CN(CCN2)CC#CCN2C(COCC2)(C)C)C=CC1C | InChI=1S/C23H35N3O.3ClH/c1-19-7-8-21(15-20(19)2)16-22-17-25(12-9-24-22)10-5-6-11-26-13-14-27-18-23(26,3)4;;;/h7-8,15,22,24H,9-14,16-18H2,1-4H3;3*1H/t22-;;;/m1.../s1
